US08957062B2
Step E: 2-(2,5-difluoro-4-{2-[(1S,2R)-2-piperidin-4-ylcyclopropyl]ethoxy}phenyl-)-N,N-dimethylacetamide
To a solution of benzyl 4-[(1R,2S)-2-(2-{4-[2-(dimethylamino)-2-oxoethyl]-2,5-difluorophenoxy}ethyl)cyclopropyl]piperidine-1-carboxylate (226 mg, 0.451 mmol) in 2 ml anhydrous methanol at RT was added 10% Palladium on carbon (25.0 mg, 0.211 mmol). The reaction was stirred with hydrogen balloon for 2 hours. It was filtered by Celite, and the filtrate was concentrated to give the title compound (160 mg, 97%). LC/MS (m/z): 368.4 (M+H)+.

reactant | benzyl 4-[(1R,2S)-2-(2-{4-[2-(dimethylamino)-2-oxoethyl]-2,5-difluorophenoxy}ethyl)cyclopropyl]piperidine-1-carboxylate | 0.451 mmol, 226 mg | CN(C(CC1=CC(=C(OCC[C@H]2[C@H](C2)C2CCN(CC2)C(=O)OCC2=CC=CC=C2)C=C1F)F)=O)C | C28H34F2N2O4
reactant | hydrogen | [H][H] | H2
solvent | methanol | 2 ml | CO | CH4O
catalyst | Palladium on carbon | 0.211 mmol, 25.0 mg | [Pd] | Pd
product | 2-(2,5-difluoro-4-{2-[(1S,2R)-2-piperidin-4-ylcyclopropyl]ethoxy}phenyl-)-N,N-dimethylacetamide | 160 mg, 97% | FC1=C(C=C(C(=C1)OCC[C@H]1[C@H](C1)C1CCNCC1)F)CC(=O)N(C)C | C20H28F2N2O2
